.suckt  symmetrical_op_amp_4231 ibias in1 in2 out source_nmos source_pmos
M1 out2fs in1 net_0 net_0 pmos W=25e-6 L=1e-6
M2 inoutputtc in2 net_0 net_0 pmos W=25e-6 L=1e-6
M3 out1fs out1fs source_nmos source_nmos nmos W=1e-6 L=1e-6
M4 out2fs out2fs out1fs out1fs nmos W=1e-6 L=1e-6
M5 insourcetc insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 inoutputtc inoutputtc insourcetc insourcetc nmos W=1e-6 L=1e-6
M7 net_1 net_1 source_pmos source_pmos pmos W=1e-6 L=2e-6
M8 net_0 ibias net_1 net_1 pmos W=1e-6 L=2e-6
M9 instagebias instagebias source_pmos source_pmos pmos W=3e-6 L=1e-6
M10 out innercomp instagebias instagebias pmos W=3e-6 L=1e-6
M11 net_3 out1fs source_nmos source_nmos nmos W=1e-6 L=1e-6
M12 out out2fs net_3 net_3 nmos W=1e-6 L=1e-6
M13 net_4 insourcetc source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 innercomp inoutputtc net_4 net_4 nmos W=1e-6 L=1e-6
M15 innercomp instagebias source_pmos source_pmos pmos W=3e-6 L=1e-6
M16 ibias ibias bias_p_1m bias_p_1m pmos W=1e-6 L=2e-6
M17 bias_p_1m net_1 source_pmos source_pmos pmos W=1e-6 L=2e-6
Cap_load_1 out source_nmos
.end symmetrical_op_amp_4231
